US07456164B2
1-cyclobutyl-4-{4-[4-(1,3-thiazol-2-yl)tetrahydro-2H-pyran-4-yl]phenoxy}piperidine
The title compound (92 mg, 39%) was prepared from 4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carbothioamide and bromoacetaldehyde diethylacetal similarly to the procedure used for example 137. 1H NMR (400 MHz, CDCl3) δ 1.66-1.72 (m, 2H), 1.77-1.89 (m, 5H), 1.95-2.04 (m, 4H), 2.11 (m, 1H), 2.36-2.43 (m, 2H), 2.58-2.72 (m, 5H), 3.71 (t, 2H), 3.84-3.88 (m, 2H), 4.27 (m, 1H), 6.84 (d, 2H), 7.23-7.26 (m, 3H), 7.70 (s, 1H). LRMS APCI+ m/z 399 [MH]+.

reactant | 4-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carbothioamide | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C(N)=S | C21H30N2O2S
reactant | bromoacetaldehyde diethylacetal | C(C)OC(CBr)OCC | C6H13BrO2
product | 1-cyclobutyl-4-{4-[4-(1,3-thiazol-2-yl)tetrahydro-2H-pyran-4-yl]phenoxy}piperidine | 92 mg, 39% | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C=1SC=CN1 | C23H30N2O2S
